US07071201B2
Example 219: Synthesis of 1-[1-(4-fluorophenethyl)-piperdin-4-yl]-5-chloro-6-methoxyindoline
N-Chlorosuccinimide (0.15 g) was added at room temperature to a solution of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-methoxyindoline (0.39 g) in methylene chloride (5 ml) and the resultant mixture was stirred for 20 min. Then a 5 N aqueous solution of sodium hydroxide and ethyl acetate were added to the reaction solution and the layers were separated. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The resulting residue was purified by silica gel column chromatography (methylene chloride/ethanol system) followed by conversion into a hydrochloride to give the hydrochloride (0.10 g) of the title compound as apale red powder (yield: 21%).

reactant | N-Chlorosuccinimide | 0.15 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-methoxyindoline | 0.39 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)OC)C=C1 | C22H27FN2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-[1-(4-fluorophenethyl)-piperdin-4-yl]-5-chloro-6-methoxyindoline | yield: 21% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC(=C(C=C23)OC)Cl)C=C1 | C22H26ClFN2O
